US05786495
Synthesis of di(n-butyl)bis(9-fluorenyl)silane
Fluorene (23.27 g, 140 mmol) was dissolved in 100 mL diethyl ether and the solution was cooled to -78° C. Methyllithium (1.4 M in diethyl ether, 140 mL) was added dropwise to the stirred solution while maintaining the temperature at -78° C. After the addition was complete, the solution was allowed to warm to room temperature. Stirring was continued overnight. In a separate flask, di-n-butyldichlorosilane (14.9 g, 70 mmol) was dissolved in 50 mL diethyl ether. The temperature was reduced to -78° C., and the solution (prepared above) containing the fluorene anion was added to this stirred solution, dropwise. After the addition was complete, the reaction was allowed to warm slowly to room temperature and stirred overnight. The reaction was then treated with a saturated solution of ammonium chloride, the organic layer was collected and dried over magnesium sulfate, and dried in vacuo. The material was further purified by washing with methanol and drying in vacuo. Yield: 23.39 g (70.7%, 97% purity by GCMS). 1H-NMR (CD2 Cl2), d, ppm: 7.81 (d, 4H), 7.30 (m, 12H), 3.95(s, 2H), 1.05(m, 4H), 0.85(m, 10H), 0.5(m, 4H).

reactant | Fluorene | 140 mmol, 23.27 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | Methyllithium | 1.4 M, 140 mL | C[Li]
reactant | di-n-butyldichlorosilane | 70 mmol, 14.9 g | C(CCC)[Si](Cl)(Cl)CCCC | C8H18Cl2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | di(n-butyl)bis(9-fluorenyl)silane | C(CCC)[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C2=CC=CC=C2C=2C=CC=CC12)CCCC | C34H36Si
